US09029388B2
A) 4-(Imidazo[1,2-a]pyridin-8-yl)phenol
A mixture of 4-hydroxyphenylboronic acid (0.77 g), 8-bromoimidazo[1,2-a]pyridine (1.1 g), tetrakis(triphenylphosphine)palladium(0) (0.19 g), sodium carbonate (2.1 g), DME (30 ml) and water (6 ml) was heated under reflux overnight under an argon atmosphere. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) and recrystallized from ethyl acetate to give the title compound (0.88 g).

reactant | 4-hydroxyphenylboronic acid | 0.77 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | 8-bromoimidazo[1,2-a]pyridine | 1.1 g | BrC=1C=2N(C=CC1)C=CN2 | C7H5BrN2
reactant | sodium carbonate | 2.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | 30 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.19 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 6 ml | O | H2O
product | 4-(Imidazo[1,2-a]pyridin-8-yl)phenol | 0.88 g | N=1C=CN2C1C(=CC=C2)C2=CC=C(C=C2)O | C13H10N2O
